US04568751
Ethylacetoacetate (6.5 g, 0.050 mole) and dimethylformamide dimethyl acetal (7.14 g, 0.060 mole) were stirred together under argon overnight. The resulting reddish oil was concentrated on the rotary evaporator and the concentrate then dissolved in THF (10 ml) and quickly added to a suspension of cyanoacetamide (4.20 g, 0.050 mole) and sodium hydride in THF (175 ml). The reaction mixture was heated and stirred overnight at 50° C. The reaction mixture was neutralized to pH 6 with acetic acid and concentrated on the rotary evaporator. The residue was triturated with a 50:50 CH2Cl2 --H2O mixture collected and recrystallized (EtOAC) giving 4.7 g of 3-cyano-1,2-dihydro-6-methyl-2-oxo-5-pyridinecarboxylic acid ethyl ester m.pt. 208°-210° C.

reactant | Ethylacetoacetate | 0.050 mole, 6.5 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | dimethylformamide dimethyl acetal | 0.060 mole, 7.14 g | COC(N(C)C)OC | C5H13NO2
reactant | cyanoacetamide | 0.050 mole, 4.20 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 175 ml | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-cyano-1,2-dihydro-6-methyl-2-oxo-5-pyridinecarboxylic acid ethyl ester | 4.7 g | C(C)OC(=O)C=1C=C(C(NC1C)=O)C#N | C10H10N2O3
